US05202344
Preparation of 1,1-Dimethylethyl 2,5-dihydro-4-hydroxy-5-oxo-1-pentyl-1H-pyrrole-3-carboxylate
To a solution of n-pentyl amine (21.72 g, 0.25 mol) in 110 ml of EtOH (freshly distilled from sodium) was added tert-butyl acrylate (36.62 ml, 0.26 mol) via syringe and the resulting solution was stirred under an atmosphere of argon for 12 h at room temperature. To the solution was then added diethyl oxalate (36.54 g, 0.25 mol). The solution was then cooled to 0° C. and a freshly prepared solution of sodium ethoxide (from 5.75 g (0.25 mole) of sodium and 75 ml of EtOH) was added via cannula while maintaining the temperature between 0° C. and 5° C. After the addition was complete, the solution was allowed to warm to room temperature and stirred overnight. To the resulting slurry was added 400 ml of water followed the slow addition of 30% aqueous HCl to acidify to pH=4. The suspension was then extracted with CH2Cl2. The organic phase was dried over MgSO4, filtered, and concentrated in vacuo to give a white solid. Recrystallization from ethyl acetate was dried gave the title compound (31.57 g, 47%) as a colorless powder. Anal calcd for C14H23NO4 1/4H2O: C, 61.40; H, 8.65; N, 5.11. Found: C, 61.38; H, 8.54; N, 5.22. MS M+1 calcd for C14H23NO4 270, found 270. DSC=102.3°-106.4° C. at 101.7 J/g. Chromatography of the mother liquor on silica gel eluting with EtOH/CH2Cl2 /HOAc (2/98/1) gave an additional 17.5 g (26%) of the title compound.

reactant | n-pentyl amine | 0.25 mol, 21.72 g | C(CCCC)N | C5H13N
reactant | sodium | [Na] | Na
reactant | tert-butyl acrylate | 0.26 mol, 36.62 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | diethyl oxalate | 0.25 mol, 36.54 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium ethoxide | 0.25 mole, 75 ml, 5.75 g | [O-]CC.[Na+]
reactant | sodium | 0.25 mole | [Na] | Na
reactant | HCl | Cl | ClH
reactant | EtOH | 110 ml | CCO | C2H6O
solvent | water | 400 ml | O | H2O
product | 1,1-Dimethylethyl 2,5-dihydro-4-hydroxy-5-oxo-1-pentyl-1H-pyrrole-3-carboxylate | 31.57 g, 47% | OC1=C(CN(C1=O)CCCCC)C(=O)OC(C)(C)C | C14H23NO4
